US08044062B2
Pd(dppf) dichloromethane adduct (0.077 g, 0.095 mmol) was added to a suspension of 6-bromo-2-(ethylamino)-4-methyl-8-(1-methylethyl)pyrido[2,3-d]pyrimidin-7(8H)-one (0.154 g, 0.474 mmol), 2-thiophene boronic acid (0.079 g, 0.616 mmol), and triethylamine (165 μL, 1.19 mmol) in 10:1 DME:water (1.5 mL). The reaction was heated to 100° C. After 5 h, the reaction was cooled to room temperature, filtered though a Celite plug and concentrated in vacuo. The residue was purified on SiO2 (3:2 hexanes:ethyl acetate) to give 2-(ethylamino)-4-methyl-8-(1-methylethyl)-6-(2-thienyl)pyrido[2,3-d]pyrimidin-7(8H)-one (28 mg, 18% yield) as a light yellow solid: 1H NMR (400 MHz, CDCl3): δ 8.06 (s, 1H), 7.60 (dd, J=4.0, 1.2 Hz, 1H), 7.38 (dd, J=5.2, 0.8 Hz, 1H), 7.10 (dd, J=4.8, 3.2 Hz, 1H), 5.93 (bsept, 1H), 5.13 (bs, 1H), 3.54 (pent, J=7.2 Hz, 2H), 2.61 (s, 3H), 1.66 (d, J=6.8 Hz, 6H), 1.28 (t, J=7.6 Hz, 3H); MS (EI) for C17H20N4OS: 329.0

reactant | 6-bromo-2-(ethylamino)-4-methyl-8-(1-methylethyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.474 mmol, 0.154 g | BrC1=CC2=C(N=C(N=C2C)NCC)N(C1=O)C(C)C | C13H17BrN4O
reactant | 2-thiophene boronic acid | 0.616 mmol, 0.079 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | triethylamine | 1.19 mmol, 165 μL | C(C)N(CC)CC | C6H15N
reactant | DME | COCCOC | C4H10O2
solvent | water | 1.5 mL | O | H2O
product | 2-(ethylamino)-4-methyl-8-(1-methylethyl)-6-(2-thienyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 28 mg, 18% yield | C(C)NC=1N=C(C2=C(N1)N(C(C(=C2)C=2SC=CC2)=O)C(C)C)C | C17H20N4OS
